US08735385B2
{4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohex-1-enyl]-phenyl}-carbamic acid benzyl ester
4-Benzyloxycarbonylamino-benzene boronic acid (1.42 g, 5.25 mmol, 1.5 equiv.) and LiCl (420 mg, 10.5 mmol, 3 equiv.) was placed in a 25 mL round bottom flask. To this was added Na2CO3 (2M) (7 mL) and EtOH (7 mL) to form a nice suspension. To this was transferred a solution of trifluoromethanesulfonic acid 4-(tert-butyl-dimethyl-silanyloxy)-cyclohex-1-enyl ester (1.26 g, 3.5 mmol, 1 equiv.) in toluene (18 mL). This suspension was subjected to a vacuum/nitrogen exchange three times. Pd(PPh3)4 (CAS 14221-01-3) (203 mg, 0.05 mmol, 7.5 mol %) was then added. The brown mixture was heated in an oil bath at 100° C. (external) for 50 min when the suspension became dark. At which time the TLC showed that the reaction was complete. The reaction was diluted with EtOAc (20 mL) and water (10 mL). The two layers were separated, and the aqueous layer was extracted with EtOAc (10 mL×2). The combined EtOAc extracts were washed with sodium bicarbonate (5 mL), brine (5 mL), dried (anhydrous potassium carbonate), filtered, and concentrated in vacuo to obtain a crude product. This was purified on a silica gel column eluted with 30% EtOAc in heptane to afford 1.5 g (98% yield) of the title compound as a crystalline white solid.

reactant | 4-Benzyloxycarbonylamino-benzene boronic acid | 5.25 mmol, 1.42 g, 1.5 equiv. | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)B(O)O | C14H14BNO4
reactant | LiCl | 10.5 mmol, 420 mg, 3 equiv. | [Li+].[Cl-]
reactant | Na2CO3 | 2M, 7 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trifluoromethanesulfonic acid 4-(tert-butyl-dimethyl-silanyloxy)-cyclohex-1-enyl ester | 3.5 mmol, 1.26 g, 1 equiv. | C(C)(C)(C)[Si](OC1CC=C(CC1)OS(=O)(=O)C(F)(F)F)(C)C | C13H23F3O4SSi
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.05 mmol, 203 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 7 mL | CCO | C2H6O
product | {4-[4-(tert-Butyl-dimethyl-silanyloxy)-cyclohex-1-enyl]-phenyl}-carbamic acid benzyl ester | 1.5 g, 98% yield | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C1=CCC(CC1)O[Si](C)(C)C(C)(C)C)=O | C26H35NO3Si
